reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2](/[C:3](=[N:4]/[H:11])[H:10])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9],34.032583761008446
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],87.98708308141163
[C:1]([C:4](=[C:3]=[C:2]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],103.95958112628804
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5][O:6][H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],80.25006479080271
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:3]([H:12])([H:13])[H:14])[H:11])([H:8])[H:10].[C:4](=[O:5])=[C:6]=[C:7]([H:9])[H:15],56.0562854197363
[C:1]([O:2][C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C@:3]1([O:4][H:12])[C:5]([H:10])([H:11])[O:6]1)([H:7])([H:8])[H:9],56.87505148002961
[O-:1][C+:2]([N:3]([C+:4]([C:5](=[C-:6][H:11])[H:10])[H:9])[H:8])[H:7]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7],30.022846188881694
[C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[O:1]([C:2][H:9])[H:8]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],17.757221294178798
[C:1](/[C:2](=[N:3]\[H:10])[N+:4](=[C-:5][O:6][H:12])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]\[H:10])[N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9],35.30360392242238
[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C-:1]([N+:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])([H:8])[H:11])([H:9])[H:10],92.135944075669
[C:1]([C@@:2]([O:3][H:10])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[O:3])[H:9])([H:6])([H:7])[H:8].[C:4]=[N:5][H:10],57.6982397962545
[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5][C:6]([H:14])([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],69.028312538215
[C:1]([C:2]([C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([O:4][C:3](=[C:2]([H:8])[H:9])[H:10])([H:5])([H:6])[H:7],98.4137087855452
[C:1]([O:5][C:4](=[C:2]=[O:3])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9],44.27896141641369
[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7]>>[C:2]1([H:8])([H:9])[C@:3]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[O:4]1.[O:1]([H:7])[H:11],71.4061733825008
[C:1]([N:2]1[C:3]([H:10])([H:12])[C:5]([O:6][H:11])([H:15])[C:4]1([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:7])([H:8])[H:9],75.1789281858678
[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:5](=[O:6])[H:12])=[C:4]([H:10])[H:11])([H:7])([H:8])[H:9],54.324157823094794
[C:1]([C:2](=[C:3]=[C:4]([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[N:5](=[C:6]=[O:7])[H:14]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])=[C:4]([H:13])[N:5]([H:14])[C:6]1=[O:7])([H:8])([H:9])[H:10],82.26638079357879
[C:1]([C:2](=[O:3])[C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])([H:8])([H:9])[H:10].[H:11][H:12]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10],68.7651471737243
[C:1]([C:2]([C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:4][C:3](=[C:2]([H:10])[H:11])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:7])([H:8])[H:9],100.29975144890801
[C:1]([C:2]([C:3]([C:4][C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:12])[H:13])([H:11])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],7.266531786020607
[C:1]([C:2]([C:3]([O:4][H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3](=[O:4])[H:10])([H:9])[H:11])([H:5])([H:6])[H:7].[H:8][H:12],93.772836097588
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:4](=[C:5])[C:6]1=[C:7]([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],56.006864867931526
[N:1]([C@@:2]([N+:4]#[C-:3])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:9])([H:7])[H:8],32.4642095647193
